2194-06-20 07:34:00 Physician Resident Progress Note
Chief Complaint: 68 year old male with history mets NSCLC with
   extensive lymphadenopathy in the abdomen presenting with acute
   exacerbation of abdominal pain in the last 24 hours
   24 Hour Events:
   Tachycardia continues to 130s.
   Patient continues to have pain in back radiating around to abdomen.
   he had some nausea & vomiting earlier this morning and put out 700 cc
   from NGT suction.
   Patient feels well besides pain.
   Allergies:
   Chantix (Oral) (Varenicline Tartrate)
   stomach cramps;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2194-6-19**] 08:45 PM
   Heparin Sodium (Prophylaxis) - [**2194-6-19**] 09:33 PM
   Hydromorphone (Dilaudid) - [**2194-6-20**] 06:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-6-20**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 115 (115 - 152) bpm
   BP: 126/54(73) {111/54(69) - 135/90(94)} mmHg
   RR: 15 (12 - 19) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 67 Inch
             Total In:
                                                                  3,344 mL
                                                                    919 mL
   PO:
             TF:
   IVF:
                                                                    344 mL
                                                                    919 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,860 mL
   Urine:
   1,160 mL
   NG:
   700 mL
   Stool:
   Drains:
   Balance:
                                                                  3,344 mL
                                                                   -941 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   Gen A&O x3 , nad:
   Lungs: crackles bilat at bases
   CV:  rapid rate, irregular rhythm, s1 & s2 nl, no m/r/g
   Abd: +bs, nd, nt, no masses
   Ext: warm, well perfused
   Labs / Radiology
   519 K/uL
   7.9 g/dL
   126 mg/dL
   0.9 mg/dL
   21 mEq/L
   3.7 mEq/L
   11 mg/dL
   106 mEq/L
   138 mEq/L
   23.5 %
   7.5 K/uL
        [image002.jpg]
                             [**2194-6-19**]  06:45 PM
                             [**2194-6-20**]  05:07 AM
   WBC
   8.5
   7.5
   Hct
   26.1
   23.5
   Plt
   544
   519
   Cr
   0.9
   Glucose
   126
   Other labs: PT 53.8  PTT 43.7  INR 6.2
   TSH 3.3  Posm 283
    ALT / AST:[**10-7**], Alk Phos / T Bili:37/0.2, Amylase / Lipase:35/18,
   Differential-Neuts:80.3 %, Lymph:12.5 %, Mono:4.1 %, Eos:1.9 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.2 g/dL, LDH:109 IU/L, Ca++:9.0 mg/dL,
   Mg++:1.5 mg/dL, PO4:3.9 mg/dL
   Imaging: CT abd: Wet Read: Multiple enlarged retroperitoneal lymph
   nodes with necrotic centers concerning
   for metastatic disease versus lymphoma. However, infection,
   particualrly
   tuberculosis cannot be excluded.
   RLL consolidation most consistent with pneumonia.
   CXR [**2194-6-19**]-No evidence of pneumoperitoneum. Right hilar and basilar
   opacity
   compatible with the patient's known hilar mass and post-obstructive
   atelectasis.
   Microbiology: blood cx pending x2
   Assessment and Plan
   Assesment: 68 year old male with history mets NSCLC with extensive
   lymphadenopathy in the abdomen presenting with acute exacerbation of
   abdominal pain in the last 24 hours
   # Abdominal pain
   Given the findings on CT scan and physical exam the most likely
   etiology is secondary to malignant infiltration of the abdominal cavity
   as evidenced by extensive increase in lymphadenopathy throughout the
   abdomen. There is no evidence of perforation or SBO which would be high
   on the differential. Onc feels that his acute abdominal pain and n/v is
   consistent with the acute progression of his cancer.
   - pain control with dilaudid
 dilaudid makes patient nauseated
   consider pre-treatment per onc rec.
   - add fentanyl patch 25mcg per onc
   - f/u blood cx
 but low concern for infection at this point.
   - follow up with onc re: will need biospy of lymp nodes to ensure this
   is not a new primary malignancy such as a lymphoma and not metastatic
   lung cancer
   # RLL infiltrate: initially concern re: PNA but given patient is s/p
   XRT to lungs and changes are seen on [**12-3**] CT scan.  There is a low
   likelihood of pna given no fevers, sob, cough or increased wbc
   -no need for abx currently
   -fup cx.
   # Atrial fibrillation
   Has been difficult to control and know this is exacerbated by the fact
   he is infected and in significant amount of pain, he also has not taken
   his medications for the past 48 hours.  TSH wnl.
   - rate control with Toprol XL 100mg PO bid
 increase to 150 mg PO XL
   [**Hospital1 **].
   - pain control
   - given IVF overnight will little impact on HR.  not likely to be r/t
   to dehydratioin.
   - prn lopressor if needed
   - repeat TTE to assess for pericardial effusion, or infiltration
   leading to atrial fibrillation
   - Holding Coumadin INR 6.2
   # Acidosis- small AG
   - likely volume depletion, resolved.
   # NSCLC
   - defer tx to ONCOLOGY team
   # FEN:  NPO  - may advance diet to clears and then to regular as
   patient tolerates.
   Give IVF if not taking in fluids.
   Replete Mg.
   # Access- PIV
   # PPx:  on PPI at home, pneumoboots
   # Code:  FULL
   # Dispo:  likely transfer to floor later today after achieving better
   rate control.
   # Comm:  Daughter [**Name (NI) 1288**] at [**Telephone/Fax (1) 3774**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2194-6-19**] 09:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2194-06-20 09:41:00 Physician Attending Progress Note
Chief Complaint: abd pain
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68M with h/o nsclca, chronic afib, presents with abd pain, nausea and
   vomiting, with initial impression of progression of known disease:
   24 Hour Events:
   -admitted overnight
   -seen by surgery, no need for OR
   -ct shows worsening lad abd;
   -poor rate control in the ed, not good response to fluids
                            History obtained from [**Hospital 85**] Medical records
   Allergies:
   Chantix (Oral) (Varenicline Tartrate)
   stomach cramps;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2194-6-20**] 06:24 AM
   Pantoprazole (Protonix) - [**2194-6-20**] 08:33 AM
   Heparin Sodium (Prophylaxis) - [**2194-6-20**] 08:33 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, Palpitations, Edema
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: Abdominal pain, Nausea, Emesis, No(t) Diarrhea, No(t)
   Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Signs or concerns for abuse : No
   Flowsheet Data as of  [**2194-6-20**] 09:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (97
   HR: 121 (115 - 152) bpm
   BP: 121/57(73) {111/54(69) - 135/90(94)} mmHg
   RR: 13 (12 - 19) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 67 Inch
             Total In:
                                                                  3,344 mL
                                                                  1,179 mL
   PO:
             TF:
   IVF:
                                                                    344 mL
                                                                  1,179 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,860 mL
   Urine:
   1,160 mL
   NG:
   700 mL
   Stool:
   Drains:
   Balance:
                                                                  3,344 mL
                                                                   -681 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.9 g/dL
   519 K/uL
   126 mg/dL
   0.9 mg/dL
   21 mEq/L
   3.7 mEq/L
   11 mg/dL
   106 mEq/L
   138 mEq/L
   23.5 %
   7.5 K/uL
         [image002.jpg]
                             [**2194-6-19**]  06:45 PM
                             [**2194-6-20**]  05:07 AM
   WBC
   8.5
   7.5
   Hct
   26.1
   23.5
   Plt
   544
   519
   Cr
   0.9
   Glucose
   126
   Other labs: PT / PTT / INR:53.8/43.7/6.2, ALT / AST:[**10-7**], Alk Phos / T
   Bili:37/0.2, Amylase / Lipase:35/18, Differential-Neuts:80.3 %,
   Lymph:12.5 %, Mono:4.1 %, Eos:1.9 %, Lactic Acid:0.9 mmol/L,
   Albumin:3.2 g/dL, LDH:109 IU/L, Ca++:9.0 mg/dL, Mg++:1.5 mg/dL, PO4:3.9
   mg/dL
   Assessment and Plan
   68M with metastatic nsclca and afib, and known abdominal lad, presents
   with abdominal pain, n/v, with ct evidence of worsening LAD and
   possible infected lymph node. initial report of pna seems less likely
   on review of ct scan, likely resolving old infiltrate vs chronic
   changes .
   abd pain with nausea or vomiting: LAD involved but still unclear why he
   has acute onset of symptoms but oncology feels that these symptoms are
   constent with progression of disease
   -follow-up final read
   -follow up bcx
   -cont iv protonix
   -oncology considerting biopsy of LAD
   -better pain control with fentanyl patch
   -volume replete
   -antiemetics
   atrial fibrillation: need better rate control
   -reassess after better pain control and volume repleted
   -continue metoprolol xl [**Hospital1 **] (home dosing); increase dose
   -fu tte
   cancer:
   -oncology following closely
   dispo:
   -need code and goals of care discussion given progression of disease by
   oncology and icu team; family meeting
   -may be able to leave the ICU to OMED when HR better controlled.
   I was physically present with the resident and fellow team on this day
   and I agree with the content of the note in full.  I would add, patient
   admitted with abdominal pain in the setting of progression of
   lymphadenopathy.  He has had evaluation of his CT scan which does
   appear less likely to be a new acute pneumonia.  Abdominal pain is
   suggestive of worsening of underlying disease and pain control will be
   at issues over the immediate course.
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2194-6-19**] 09:16 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2194-06-21 07:36:00 Physician Resident Progress Note
Chief Complaint: NCSLC with painful lyphadenopathy
   Afib and RVR
   24 Hour Events:
   [**2194-6-20**] ECHO: Suboptimal image quality. Small pericardial effusion.
   Normal global biventricular systolic function. Small secundum ASD vs.
   stretched PFO. Borderline pulmonary hypertension.
   Compared with the prior study (images reviewed) of [**2194-4-2**], the atrial
   septal defect is new. The severity of tricuspid regurgitation is
   reduced. The rhythm now appears to be atrial fibrillation with a rapid
   ventricular response.  LVEF 55%.
   A-fib: rate control (HR<120) overnight on max dosage of metoprolol XL
   200mg [**Hospital1 **]
   Itching on dilaudid; document as ADR; started on hydrocodone for
   breakthrough pain.
   Allergies:
   Chantix (Oral) (Varenicline Tartrate)
   stomach cramps;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2194-6-20**] 08:33 AM
   Heparin Sodium (Prophylaxis) - [**2194-6-20**] 08:33 AM
   Hydromorphone (Dilaudid) - [**2194-6-21**] 06:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-6-21**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.3
C (99.1
   HR: 110 (105 - 131) bpm
   BP: 120/56(72) {104/53(32) - 138/98(103)} mmHg
   RR: 20 (9 - 28) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 67 Inch
                  Total In:
                                                                  1,874 mL
                                                                    150 mL
   PO:
                                                                    160 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  1,714 mL
   Blood products:
   Total out:
                                                                  2,360 mL
                                                                  1,090 mL
   Urine:
                                                                  1,560 mL
                                                                  1,090 mL
   NG:
                                                                    800 mL
   Stool:
   Drains:
   Balance:
                                                                   -486 mL
                                                                   -940 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///20/
   Physical Examination
   Gen: NAD, aao x 3
   CV: distant heart sounds, RRR, no M/R/G
   Lungs: CTA B, nonlabored breathing
   Abd: +bs, distended, mildly tender to deep palpation
   Ext: warm, dry
   Labs / Radiology
   488 K/uL
   8.0 g/dL
   89 mg/dL
   1.0 mg/dL
   20 mEq/L
   3.6 mEq/L
   6 mg/dL
   105 mEq/L
   134 mEq/L
   23.4 %
   6.7 K/uL
        [image002.jpg]
                             [**2194-6-19**]  06:45 PM
                             [**2194-6-20**]  05:07 AM
                             [**2194-6-20**]  02:51 PM
                             [**2194-6-21**]  05:13 AM
   WBC
   8.5
   7.5
   6.7
   Hct
   26.1
   23.5
   26.5
   23.4
   Plt
   544
   519
   488
   Cr
   0.9
   1.0
   Glucose
   126
   89
   Other labs: PT / PTT / INR:58.9/49.0/6.9, ALT / AST:[**10-7**], Alk Phos / T
   Bili:37/0.2, Amylase / Lipase:35/18, Differential-Neuts:80.3 %,
   Lymph:12.5 %, Mono:4.1 %, Eos:1.9 %, Lactic Acid:0.9 mmol/L,
   Albumin:3.2 g/dL, LDH:109 IU/L, Ca++:9.1 mg/dL, Mg++:1.6 mg/dL, PO4:3.6
   mg/dL
   Imaging
   [**2194-6-20**] ECHO: Suboptimal image quality. Small pericardial effusion.
   Normal global biventricular systolic function. Small secundum ASD vs.
   stretched PFO. Borderline pulmonary hypertension.
   Compared with the prior study (images reviewed) of [**2194-4-2**], the atrial
   septal defect is new. The severity of tricuspid regurgitation is
   reduced. The rhythm now appears to be atrial fibrillation with a rapid
   ventricular response.  LVEF 55%.
   [**2194-6-19**] CT abd/pelv: Unchanged right hilar mass with worsening right
   lower lobe consolidation possibly representing post-obstructive
   pneumonia, less likely atelectasis.
   Extensive lymphadenopathy (which was FDG- avid on previous day's
   PET/CT).
   While this could certainly represent metastatic disease from either the
   patient's known lung or colon primaries, the possibility of lymphoma
   should
   also be considered, though necrosis would be an atypical feature.
   Atypical
   infection such as [**Doctor First Name **] or tuberculosis would be much less likely.
   Microbiology: [**2194-6-19**] Blood cx: pending
   Assessment and Plan
   68 year old male with history mets NSCLC with extensive lymphadenopathy
   in the abdomen presenting with acute exacerbation of abdominal pain in
   the last 24 hours
   # Abdominal pain
   Given the findings on CT scan and physical exam the most likely
   etiology is secondary to malignant infiltration of the abdominal cavity
   as evidenced by extensive increase in lymphadenopathy throughout the
   abdomen. There is no evidence of perforation or SBO which would be high
   on the differential. Onc feels that his acute abdominal pain and n/v is
   consistent with the acute progression of his cancer.
   - pain control with dilaudid switched to hydrocodone due to nausea and
   itching
   - continue fentanyl patch 25mcg per onc
   - f/u blood cx
 but low concern for infection at this point.
   - follow up with onc re: need for biospy of lymp nodes to ensure
   metastatic vs second primary
   # RLL infiltrate: initially concern re: PNA but given patient is s/p
   XRT to lungs and changes are seen on [**12-3**] CT scan.  There is a low
   likelihood of pna given no fevers, sob, cough or increased wbc
   -no need for abx currently
   -fup cx.
   # Atrial fibrillation: likely the presentation of new ASD (secundum);
   may be exacerbated by pain; TSH wnl
   - rate control with Toprol XL 200mg PO bid
   - pain control (fentanyl patch and hydrocodone po)
   - prn lopressor if needed
   - may consider repeat TTE to assess for pericardial effusion, or
   infiltration leading to atrial fibrillation
   - holding Coumadin INR 6.2
   - consult cardiology: need for digoxin?  Treatment or procedure for
   ASD?
   # Elevated INR 6.2:  not on any anticoagulation, no antibiotics, no
   known liver dz
   - will hold anticoagulation
   - give Vit K
   -monitor DICC labs [**Hospital1 **]
   # NSCLC
   - defer tx to ONCOLOGY team
   # FEN:  continue full liquid diet; advance diet as tolerated; pt states
   solids [**First Name11 (Name Pattern1) **]
[**Initial (NamePattern1) **] [**Last Name (NamePattern1) 3796**] down well; may continue liquids  (supplement with
   Ensure shakes)
   # Access- PIV
   # PPx:  on PPI at home, pneumoboots
   # Code:  FULL ( will discuss with pt today)
   # Dispo:  will transfer to floor after discussing plan with cardiology
   # Comm:  Daughter [**Name (NI) 1288**] at [**Telephone/Fax (1) 3774**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2194-6-19**] 09:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2194-06-21 20:32:00 Physician Attending Progress Note
Chief Complaint: Atrial-fibrillation with rapid ventricular response
   HPI:
   24 Hour Events:
   Overall, feels much improved today.
   Heart rate controlled on increased dose of Metoprolol XL.
   Echo revealed evidence for PFO (secundum), small pericardial effusion.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Chantix (Oral) (Varenicline Tartrate)
   stomach cramps;
   Dilaudid (Oral) (Hydromorphone Hcl)
   Itching;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2194-6-21**] 06:09 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Flowsheet Data as of  [**2194-6-21**] 08:32 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.4
C (99.4
   HR: 119 (105 - 126) bpm
   BP: 100/85(88) {100/52(66) - 123/98(103)} mmHg
   RR: 17 (11 - 23) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 67 Inch
                  Total In:
                                                                  1,874 mL
                                                                  1,050 mL
   PO:
                                                                    160 mL
                                                                  1,050 mL
   TF:
   IVF:
                                                                  1,714 mL
   Blood products:
   Total out:
                                                                  2,360 mL
                                                                  1,090 mL
   Urine:
                                                                  1,560 mL
                                                                  1,090 mL
   NG:
                                                                    800 mL
   Stool:
   Drains:
   Balance:
                                                                   -486 mL
                                                                    -40 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , No(t) Dullness :
   ), (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Not assessed,
   No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.9 g/dL
   574 K/uL
   89 mg/dL
   1.0 mg/dL
   20 mEq/L
   3.6 mEq/L
   6 mg/dL
   105 mEq/L
   134 mEq/L
   27.4 %
   7.9 K/uL
        [image002.jpg]
                             [**2194-6-19**]  06:45 PM
                             [**2194-6-20**]  05:07 AM
                             [**2194-6-20**]  02:51 PM
                             [**2194-6-21**]  05:13 AM
                             [**2194-6-21**]  12:00 PM
   WBC
   8.5
   7.5
   6.7
   7.9
   Hct
   26.1
   23.5
   26.5
   23.4
   27.4
   Plt
   544
   519
   488
   574
   Cr
   0.9
   1.0
   Glucose
   126
   89
   Other labs: PT / PTT / INR:58.9/49.0/6.9, ALT / AST:[**10-7**], Alk Phos / T
   Bili:37/0.2, Amylase / Lipase:35/18, Differential-Neuts:80.3 %,
   Lymph:12.5 %, Mono:4.1 %, Eos:1.9 %, D-dimer:591 ng/mL, Fibrinogen:688
   mg/dL, Lactic Acid:0.9 mmol/L, Albumin:3.2 g/dL, LDH:109 IU/L, Ca++:9.1
   mg/dL, Mg++:1.6 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   Atrial Fibrillation -- Improved control on increased dose of
   beta-blocker.  Tolerated increased dose.  continue to monitor HR.
   NON-SMALL CELL CA -- intraabdominal progressive.  Consideration for 2nd
   line chemotherapy
   PAIN MANAGEMENT -- Fentaly patch, oxycodone.  Assess control.
   SECUNDUM DEFECT -- Cardiology consultation to address need for Digoxin
   Rx and whether cardiac defect requires repair.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2194-6-19**] 09:16 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes

2194-06-22 07:05:00 Physician Resident Progress Note
Chief Complaint: 68 year old male with history mets NSCLC with
   extensive lymphadenopathy in the abdomen presenting with acute
   exacerbation of abdominal pain in the last 24 hours
   24 Hour Events:
   Afib with RVR - Cards consulted and preferred rate control.  did not
   think that fixing patient's ASD is a necessary intervention.  Also
   decided not to start digoxin.
   Elevated INR to 6.9 --> given Vit K and monitoring DIC labs
   Patient
s abdominal pain is well controlled on current regimen.
   Having constipation and given lactulose overnight with BM this morning.
   Patient reports decreased appetite but tolerating fully liquid diet
   with ensure.
   Allergies:
   Chantix (Oral) (Varenicline Tartrate)
   stomach cramps;
   Dilaudid (Oral) (Hydromorphone Hcl)
   Itching;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-6-22**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.1
C (98.7
   HR: 108 (95 - 120) bpm
   BP: 137/100(110) {98/52(32) - 137/100(110)} mmHg
   RR: 15 (12 - 25) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 67 Inch
                  Total In:
                                                                  1,650 mL
                  PO:
                                                                  1,650 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,090 mL
                                                                      0 mL
   Urine:
                                                                  1,090 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    560 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   Gen: NAD, lying in bed comfortably, a&o x3
   Lungs: CTA in all lung fields
   CV: irregular rhythm, rapid rate, s1 & s2 nl, no m/r/g
   Abd: +BS, soft, nt, nd, no masses
   Ext: warm 2+ radial and DP pulses, no c/c/e
   Labs / Radiology
   487 K/uL
   8.3 g/dL
   95 mg/dL
   1.1 mg/dL
   21 mEq/L
   3.5 mEq/L
   9 mg/dL
   106 mEq/L
   136 mEq/L
   24.0 %
   7.1 K/uL
        [image002.jpg]
                             [**2194-6-19**]  06:45 PM
                             [**2194-6-20**]  05:07 AM
                             [**2194-6-20**]  02:51 PM
                             [**2194-6-21**]  05:13 AM
                             [**2194-6-21**]  12:00 PM
                             [**2194-6-22**]  05:20 AM
   WBC
   8.5
   7.5
   6.7
   7.9
   7.1
   Hct
   26.1
   23.5
   26.5
   23.4
   27.4
   24.0
   Plt
   544
   519
   488
   574
   487
   Cr
   0.9
   1.0
   1.1
   Glucose
   126
   89
   95
   Other labs: PT / PTT / INR:18.3/37.5/1.7,
   ALT / AST:[**10-7**], Alk Phos / T Bili:37/0.2, Amylase / Lipase:35/18,
    Differential-Neuts:80.3 %, Lymph:12.5 %, Mono:4.1 %, Eos:1.9 %,
   D-dimer:591 ng/mL, Fibrinogen:687 mg/dL,
    Lactic Acid:0.9 mmol/L, Albumin:3.2 g/dL, LDH:109 IU/L,
   Ca++:9.1 mg/dL, Mg++:1.4 mg/dL, PO4:4.1 mg/dL
   Blood cx x2 pending - ngtd
   No new imaging.
   Assessment and Plan
   68 year old male with history mets NSCLC with extensive lymphadenopathy
   in the abdomen presenting with acute exacerbation of abdominal pain in
   the last 24 hours
   # Abdominal pain
   Given the findings on CT scan and physical exam the most likely
   etiology is secondary to malignant infiltration of the abdominal cavity
   as evidenced by extensive increase in lymphadenopathy throughout the
   abdomen. There is no evidence of perforation or SBO which would be high
   on the differential. Onc feels that his acute abdominal pain and n/v is
   consistent with the acute progression of his cancer.
   - pain well controlled with hydrocodone (dilaudid caused nausea &
   itching)
   - continue fentanyl patch 25mcg per onc
   - f/u blood cx
 but low concern for infection at this point.
   - follow up with onc re: need for biospy of lymp nodes to ensure
   metastatic vs second primary
   # RLL infiltrate: initially concern re: PNA but given patient is s/p
   XRT to lungs and changes are seen on [**12-3**] CT scan.  There is a low
   likelihood of pna given no fevers, sob, cough or increased wbc
   -no need for abx currently
   -fup cx.
   # Atrial fibrillation: likely the presentation of new ASD (secundum);
   may be exacerbated by pain; TSH wnl
   - rate control with Toprol XL 200mg PO bid
   - pain control (fentanyl patch and hydrocodone po)
   - prn lopressor if needed
   - holding coumadin overnight for high INR but with Vit K, INR down to
   1.7 today.  Unclear if Onc would like to do LN bx
 will continue to
   hold and follow up with onc re: restarting anticoagulation.
   # Elevated INR 1.7 from 6.2 yesterday:  holding coumadin (high INR
   likely due to antibiotic interaction with coumadin inc levels)
   - will hold anticoagulation
   # NSCLC
   - defer tx to ONCOLOGY team
   # FEN:  continue full liquid diet; advance diet as tolerated to
   regular; (supplement with Ensure shakes)
   Replete K & Mg.
   # Access- PIV
   # PPx:  on PPI at home, pneumoboots
   # Code:  FULL ( will discuss with pt today)
   # Dispo:  will transfer to floor today
   # Comm:  Daughter [**Name (NI) 1288**] at [**Telephone/Fax (1) 3774**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2194-6-19**] 09:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2194-06-22 11:35:00 Physician Attending Progress Note
Chief Complaint: Tachycardia; A-fib
   HPI:
   24 Hour Events:
   HR improved control with increased dose of beta-blocker.
   Remains with abdominal pain (chronic), although improved today.
   Experience bowel movement (lactulose), with improvement in abd pain.
   Received Vit K for INR=6.9, with good response.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Chantix (Oral) (Varenicline Tartrate)
   stomach cramps;
   Dilaudid (Oral) (Hydromorphone Hcl)
   Itching;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**4-1**] Moderate
   Pain location: Abdomen
   Flowsheet Data as of  [**2194-6-22**] 11:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37
C (98.6
   HR: 107 (95 - 120) bpm
   BP: 101/51(63) {98/51(32) - 137/100(110)} mmHg
   RR: 14 (13 - 25) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 67 Inch
                  Total In:
                                                                  1,650 mL
                  PO:
                                                                  1,650 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,090 mL
                                                                    900 mL
   Urine:
                                                                  1,090 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    560 mL
                                                                   -900 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, No(t) Pupils dilated, No(t)
   Conjunctiva pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , No(t) Dullness :
   ), (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.3 g/dL
   487 K/uL
   95 mg/dL
   1.1 mg/dL
   21 mEq/L
   3.5 mEq/L
   9 mg/dL
   106 mEq/L
   136 mEq/L
   24.0 %
   7.1 K/uL
        [image002.jpg]
                             [**2194-6-19**]  06:45 PM
                             [**2194-6-20**]  05:07 AM
                             [**2194-6-20**]  02:51 PM
                             [**2194-6-21**]  05:13 AM
                             [**2194-6-21**]  12:00 PM
                             [**2194-6-22**]  05:20 AM
   WBC
   8.5
   7.5
   6.7
   7.9
   7.1
   Hct
   26.1
   23.5
   26.5
   23.4
   27.4
   24.0
   Plt
   544
   519
   488
   574
   487
   Cr
   0.9
   1.0
   1.1
   Glucose
   126
   89
   95
   Other labs: PT / PTT / INR:18.3/37.5/1.7, ALT / AST:[**10-7**], Alk Phos / T
   Bili:37/0.2, Amylase / Lipase:35/18, Differential-Neuts:80.3 %,
   Lymph:12.5 %, Mono:4.1 %, Eos:1.9 %, D-dimer:591 ng/mL, Fibrinogen:687
   mg/dL, Lactic Acid:0.9 mmol/L, Albumin:3.2 g/dL, LDH:109 IU/L, Ca++:9.1
   mg/dL, Mg++:1.4 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   Atrial fibrillation.
   A-FIB -- improved rate control with beta-blocker.  Hold resuming
   coumadin until decisions about additional biopsies resolved.
   COAGULOPATHY -- resolved with vit K.  Nutritional and antimicrobials.
   non-SMALL CELL CA -- advanced, progressive.
   Hypokalemia -- replete.
   Hypomagnisemia -- replete.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2194-6-19**] 09:16 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes